US04265812
Preparation of N-(2-Fluorosulfonylethyl)-N-ethyl-m-toluidine
N-Ethyl-m-toluidine (66.5 g) (0.5 m) is dissolved in isopropyl alcohol (75 ml) and vinylsulfonyl fluoride (55 g, 0.5 m) is added dropwise over 1.25 hr. The reaction exotherms to 38° C. and the reaction mixture is stirred for 1 hr. at ambient temperature and drowned into 500 ml of ice and water. The product is collected by filtration, washed with water, and dried in air. The product melts at 32°-34° C.

reactant | N-Ethyl-m-toluidine | 66.5 g | C(C)NC1=CC(=CC=C1)C | C9H13N
reactant | vinylsulfonyl fluoride | 55 g | C(=C)S(=O)(=O)F | C2H3FO2S
reactant | water | O | H2O
solvent | isopropyl alcohol | 75 ml | C(C)(C)O | C3H8O
product | N-(2-Fluorosulfonylethyl)-N-ethyl-m-toluidine | FS(=O)(=O)CCN(C1=CC(=CC=C1)C)CC | C11H16FNO2S
